US07053255B2
(4) Synthesis of 9,10-bis(3-(9-phenanthryl)phenyl)anthracene (Compound 17)
9,10-bis(3-(9-Phenanthryl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene (5.2 g, 7.3 mmole) was suspended in acetic acid (120 ml). To the resultant suspension, a 57% hydroiodic acid (10 ml, 77 mmole, 10 eq) was added and the obtained mixture was stirred at 100° C. for 6 hours. To the reaction mixture, a 50% aqueous solution of hypophosphorous acid (40 ml) was added. The formed solid was separated by filtration and washed with water, methanol and acetone and a white solid (5.0 g, quant.) was obtained.

reactant | 9,10-bis(3-(9-Phenanthryl)phenyl)-9,10-dihydroxy-9,10-dihydroanthracene | 7.3 mmole, 5.2 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C=1C=C(C=CC1)C1(C2=CC=CC=C2C(C=2C=CC=CC12)(O)C1=CC(=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)O | C54H36O2
reactant | hydroiodic acid | 77 mmole, 10 ml, 10 eq | I | HI
reactant | hypophosphorous acid | 40 ml | [PH2](=O)O | H3O2P
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 9,10-bis(3-(9-phenanthryl)phenyl)anthracene | C1=CC=CC=2C3=CC=CC=C3C(=CC12)C=1C=C(C=CC1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC(=CC=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C54H34
